* C:\Users\Adojang\Desktop\E344\LTSpice\E344_Assessment1.asc
V2 N005 N004 PWL file=PWLinput.csv
V3 Stimulus N005 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N004 0 {dcAmplitude}
V4 N007 0 9
R_Sense 9V N007 0.010
R1 NC_01 N001 100
R2 N001 N003 5
R3 0 N001 5
XU1 N012 0 N013 0 N014 0 LM2595_ADJ_TRANS
C2 0 N013 220µ
L1 N011 N014 100µ
C1 N011 0 120µ
D1 0 N014 DN5822
R4 N012 0 1k
R5 N011 N012 3065
C3 N011 N012 3.3n
Rcurrentout N011 0 50
Rcurrentin N013 NC_02 1
XU2 N002 0 5V LM7805
C4 9V 0 0.33µ
C5 5V 0 0.1µ
Rcurrentin1 N002 9V 1
XU3 N009 N006 5V 0 Vout TLC2272
R6 N006 N008 10k
R7 N009 N010 10k
R8 Vout N006 416k
R9 N009 0 416k
Rcurrentout1 NC_03 0 50
R10 N010 5V 238.0641k
R12 0 N010 100k
V5 N008 0 SINE(1.21 60m 200)
C6 N010 0 100n
.model D D
.lib C:\Users\Adojang\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 10m 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "Vout" to your output.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* AJ van Wijk  21786275\nV(0degV) =  640mV\ndeltaV/degV = 15 mV
.incl LM2595_ADJ_TRANS.LIB
.incl LM7805.lib
.incl TLC2272.lib
.incl TL081.lib
.incl 1N5822.lib
;tran 0 {transtop} 0 {timestep}
* MAX is 1.27V\nVariation is 60mV
.lib C:\Users\Adojang\Desktop\E344\LTSpice\LM2595_ADJ_TRANS.LIB
.lib C:\Users\Adojang\Desktop\E344\LTSpice\LM7805.lib
.backanno
.end
