* C:\Users\Adojang\Desktop\E344\LTSpice\vanWijk_21786275_A1.ASC
V2 N002 N001 PWL file=PWLinput.csv
V3 Stimulus N002 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N001 0 {dcAmplitude}
V4 N004 0 9
R_Sense 9V N004 0.010
XU2 N009 0 5V LM7805
C4 9V 0 0.33µ
C5 5V 0 0.1µ
Rcurrentin1 N009 9V 1
XU3 N005 N003 5V 0 LPF TLC2272
R6 N003 PreAmp 13k
R7 N005 N006 10k
R8 LPF N003 416k
R9 N005 0 416k
R10 N006 5V 236.0641k
R12 0 N006 100k
R18 Vout LPF 120k
R14 N007 Stimulus 100k
R15 PreAmp N007 100k
R21 N010 5V 313k
R22 0 N010 100k
XU4 N008 N007 5V 0 PreAmp TLC2272
R19 N008 N010 10k
C9 Vout 0 331n
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "Vout" to your output.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* AJ van Wijk  21786275\nV(0degV) =  640mV\ndeltaV/degV = 15 mV
.incl LM2595_ADJ_TRANS.LIB
.incl LM7805.lib
.incl TLC2272.lib
.incl TL081.lib
.incl 1N5822.lib
;tran 0 {transtop} 0 {timestep}
* MAX is 1.27V\nVariation is 60mV
* LPF with fc = 4Hz
* PreAmplifier
* 9V to 5V Power supply
* DiffAmp with virtual GND
.lib C:\Users\Adojang\Desktop\E344\LTSpice\LM7805.lib
.backanno
.end
