* C:\Users\Adojang\Desktop\E344\LTSpice\Asssignment 2\E344_Ass2_template.asc
V2 N002 N001 PWL file=PWLinput.csv
V3 Stimulus N002 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N001 0 {dcAmplitude}
V4 N003 0 9
R_Sense 9V N003 0.010
XU1 9V 0 5V LM7805
C2 5V 0 0.1µ
C1 9V 0 0.33µ
XU4 N008 HPF_Out 5V 0 HPF_Out TL081
C8 N008 N007 1.59µ
R5 HPF_Out N007 100k
C3 N007 Stimulus 1.59µ
R6 2.5V N008 100k
R11 2.5V HPF_Out 100k
R9 LPF_Out HPF_Out 100k
C4 LPF_Out 0 636n
C5 N006 0 1000n
R12 N006 Comp1_Out 100k
R14 5V 2.5V 100k
R15 2.5V 0 100k
R10 5V N004 100k
R17 N004 0 100k
R19 5V N005 100k
R21 0 N005 100k
XU3 N006 N005 5V 0 VoutBeatPulses LT1018
XU2 LPF_Out N004 5V 0 Comp1_Out TL081
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "VoutXXXX" to your output signals.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* AJ van Wijk,  21786275\nDC = 2V\nHeart rate pk = 49.5mV\nDesigning with 90bpm ~ 105bpm
.incl TL081.lib
* Normalized just has different kinds of\n noise on it. Good to test for final thing\n.tran 0 {transtop} 0 {timestep} text
* Unity Gain Active High Pass Filter Second Order\nfc = 1Hz
* Comparator 1 Coniditioning
* Passive LPF\nfc = 2.5Hz
* RC Delay circuit\nwith Tau of 100ms
* Comparator 2 to change\n signal into square pulses.
.incl TLC2272.lib
* Uses about 5.33mA
* Currently we are using 150BPM
.lib LM78XX_RS.lib
.lib LTC1.lib
.backanno
.end
